US07253286B2
4-[6-(4-Benzyloxyphenyl)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-2-chlorophenylamine
After adding 12 ml of dimethylsulfoxide to the 6-(4-benzyloxyphenyl)-4-chloro-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine synthesized in Production Example 153-4, 141 mg (1.5 equivalents) of sodium hydride (60% dispersion, Aldrich) and 507 mg (1.5 equivalents) of 4-amino-3-chlorophenol were added while stirring, and stirring was then continued at room temperature for 10 minutes and then at 135–140° C. for 4 hours. The mixture was returned to room temperature, water was added, and liquid separation and extraction were performed with an ethyl acetate:tetrahydrofuran (5:1) mixed solvent. The organic layer was dried over sodium sulfate, concentrated and subjected to NH silica gel column chromatography (hexane-ethyl acetate) to obtain 1.20 g of the title compound.

reactant | dimethylsulfoxide | 12 ml | CS(=O)C | C2H6OS
reactant | 6-(4-benzyloxyphenyl)-4-chloro-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2Cl)N1COCC[Si](C)(C)C | C25H28ClN3O2Si
reactant | sodium hydride | 141 mg, 1.5 equivalents | [H-].[Na+]
reactant | 4-amino-3-chlorophenol | 507 mg, 1.5 equivalents | NC1=C(C=C(C=C1)O)Cl | C6H6ClNO
solvent | water | O | H2O
product | 4-[6-(4-Benzyloxyphenyl)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-2-chlorophenylamine | 1.20 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC2=CC(=C(C=C2)N)Cl)N1COCC[Si](C)(C)C | C31H33ClN4O3Si
